US04631243
7.13 g (20 mmol) of 1,2,3,4,5-pentamethoxycarbonylcyclopentadiene are treated with 20.0 g (100 mmol) of isotridecyl alcohol. 3.12 g (97.5% of the theoretical yield) of methanol are distilled off at 100° C. within 8 h, firstly at 1013 mbar, then at from 363 to 18 mbar. 24 g of 1,2,3,4,5-pentaisotridecyloxycarbonylcyclopentadiene are obtained.

reactant | 1,2,3,4,5-pentamethoxycarbonylcyclopentadiene | 20 mmol, 7.13 g | COC(=O)C1=C(C(=C(C1C(=O)OC)C(=O)OC)C(=O)OC)C(=O)OC | C15H16O10
reactant | isotridecyl alcohol | 100 mmol, 20.0 g | C(CCCCCCCCCC(C)C)O | C13H28O
solvent | methanol | CO | CH4O
product | 1,2,3,4,5-pentaisotridecyloxycarbonylcyclopentadiene | 24 g | C(CCCCCCCCCC(C)C)OC(=O)C1=C(C(=C(C1C(=O)OCCCCCCCCCCC(C)C)C(=O)OCCCCCCCCCCC(C)C)C(=O)OCCCCCCCCCCC(C)C)C(=O)OCCCCCCCCCCC(C)C | C75H136O10
